US05171744
(RS) Methyl 2-bromo-2-(thien-3-yl)acetate
A mixture of (RS) methyl 2-hydroxy-2-(thien-3-yl)acetate (see Preparation 24) (4.49 g), triphenylphosphine (8.21 g) and carbon tetrabromide (10.4 g) in acetonitrile (100 ml) was refluxed for 2 hours, cooled, further triphenylphosphine (2.5 g) and carbon tetrabromide (3 g) were added, and refluxing was continued for a further 2 hours. After cooling, the mixture was used directly, without further purification, in Preparation 17.

reactant | (RS) methyl 2-hydroxy-2-(thien-3-yl)acetate | 4.49 g | OC(C(=O)OC)C1=CSC=C1 | C7H8O3S
reactant | triphenylphosphine | 8.21 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 10.4 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 2.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 3 g | C(Br)(Br)(Br)Br | CBr4
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | (RS) Methyl 2-bromo-2-(thien-3-yl)acetate | BrC(C(=O)OC)C1=CSC=C1 | C7H7BrO2S
